US06826033B2
To a solution of 10% hydrogen chloride in methanol was added N-[4-[(2S)-3-hydroxy-2-[[(2S)-2-hydroxy-3-phenoxypropyl]amino)propyl]phenyl]-N′-phenylurea (70 mg) and stirred for 15 minutes. The reaction mixture was concentrated and followed by recrystallization from ethanol to give N-[4-[(2S)-3-hydroxy-2-([(2S)-2-hydroxy-3-phenoxypropyl]amino]propyl]phenyl]-N′-phenylurea hydrochloride (38 mg) as a white powder.

reactant | hydrogen chloride | Cl | ClH
reactant | N-[4-[(2S)-3-hydroxy-2-[[(2S)-2-hydroxy-3-phenoxypropyl]amino)propyl]phenyl]-N′-phenylurea | 70 mg | OC[C@H](CC1=CC=C(C=C1)NC(=O)NC1=CC=CC=C1)NC[C@@H](COC1=CC=CC=C1)O | C25H29N3O4
solvent | methanol | CO | CH4O
product | N-[4-[(2S)-3-hydroxy-2-([(2S)-2-hydroxy-3-phenoxypropyl]amino]propyl]phenyl]-N′-phenylurea hydrochloride | 38 mg | Cl.OC[C@H](CC1=CC=C(C=C1)NC(=O)NC1=CC=CC=C1)NC[C@@H](COC1=CC=CC=C1)O | InChI=1S/C25H29N3O4.ClH/c29-17-22(26-16-23(30)18-32-24-9-5-2-6-10-24)15-19-11-13-21(14-12-19)28-25(31)27-20-7-3-1-4-8-20;/h1-14,22-23,26,29-30H,15-18H2,(H2,27,28,31);1H/t22-,23-;/m0./s1
